US06407129B1
Tetrahydrofurfuryl alcohol (19.4 g) was dissolved in anhydrous ether (500 ml) and, after adding pyridine (15 g) under ice cooling, chloromethyl chloroformate (25 g) was added dropwise. After the reaction mixture was stirred at room temperature for 17 hours, the deposited pyridine hydrochloride was removed by filtration and the filtrate was washed with ether (50 ml×2). The washings and the filtrate were combined, washed with water (300 ml×2) and then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to obtain chloromethyl (2,3,4,5-tetrahydrofurfuryl) carbonate (33.9 g) as a colorless oily product.

reactant | Tetrahydrofurfuryl alcohol | 19.4 g | C(C1CCCO1)O | C5H10O2
reactant | pyridine | 15 g | N1=CC=CC=C1 | C5H5N
reactant | chloromethyl chloroformate | 25 g | ClC(=O)OCCl | C2H2Cl2O2
solvent | ether | 500 ml | CCOCC | C4H10O
product | chloromethyl (2,3,4,5-tetrahydrofurfuryl) carbonate | 33.9 g | C(OCCl)(OCC1CCCO1)=O | C7H11ClO4
